US09102591B2
2-(2-Methylpyrimidin-5-yl)tetrahydrofuran-2-carbonitrile
A solution of 2-(3-bromopropoxy)-2-(2-methylpyrimidin-5-yl)acetonitrile (24 mg, 0.089 mmol) in THF (3 mL) was cooled at −78° C. Lithium bis(trimethylsilyl)amide in THF (141 μl, 0, 141 mmol, 1 molar) was added slowly and the mixture was stirred for 1 hour at −78° C. To the reaction mixture was added sat. aq. NH4Cl (10 mL) and the mixture was allowed to warm to room temperature. The reaction mixture was dilluted with H2O (10 mL) and extracted with AcOEt (3×15 mL). The combined org. phases were washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product was used directly for next step without further purification.

reactant | 2-(3-bromopropoxy)-2-(2-methylpyrimidin-5-yl)acetonitrile | 0.089 mmol, 24 mg | BrCCCOC(C#N)C=1C=NC(=NC1)C | C10H12BrN3O
reactant | Lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
reactant | H2O | 10 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 141 mmol, 1 molar, 141 μl | C1CCOC1 | C4H8O
product | 2-(2-Methylpyrimidin-5-yl)tetrahydrofuran-2-carbonitrile | CC1=NC=C(C=N1)C1(OCCC1)C#N | C10H11N3O
